US05136080
1. Ethyl-2-cyano-2-(2,3-dichlorophenyl)acetate
Sodium (1.2 g) was added portionwise to ethanol (50 ml) with stirring. After the sodium had dissolved a solution of 2,3-dichlorophenylacetonitrile (9.4 g) in diethylcarbonate (25 ml) was added dropwise. The reaction mixture was heated until EtOH distilled over. The rate of addition was controlled such that it equalled the rate of distillation. After the completion of the addition, the reaction mixture was heated and distilled for a further 4 hours. The cooled reaction mixture was partitioned between water and EtOAc (300 ml each). The organic layer was dried and evaporated in vacuo and the residue was purified by flash column chromatography to give the title product. (5 g, 39%).

reactant | Sodium | 1.2 g | [Na] | Na
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | 2,3-dichlorophenylacetonitrile | 9.4 g | ClC1=C(C=CC=C1Cl)CC#N | C8H5Cl2N
reactant | EtOH | CCO | C2H6O
reactant | diethylcarbonate | 25 ml | C(C)OC(OCC)=O | C5H10O3
product | Ethyl-2-cyano-2-(2,3-dichlorophenyl)acetate | C(C)OC(C(C1=C(C(=CC=C1)Cl)Cl)C#N)=O | C11H9Cl2NO2
